US04237136
10 g of 2-aminothiazole are dissolved in 150 ml of absolute ethanol and 19.8 g of acetylene dicarboxylic acid di-n-propyl ester are added to the resulting solution. The mixture is heated to 50° to 60° C. for 10 minutes. After standing overnight at room temperature the precipitate is filtered off, washed with ether and dried in vacuo. 7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid n-propyl ester melting at 154°-156° C. with decomposition is thus obtained in a yield of 14.5 g (61% of the theoretical).

reactant | 2-aminothiazole | 10 g | NC=1SC=CN1 | C3H4N2S
reactant | acetylene dicarboxylic acid di-n-propyl ester | 19.8 g | C(CC)OC(=O)C#CC(=O)OCCC | C10H14O4
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid n-propyl ester | C(CC)OC(=O)C1=CC(N=C2N1C=CS2)=O | C10H10N2O3S
